Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
___ y/o ___ man with multiple medical problems 
most notable for HTN, COPD, HFpEF, Afib on Coumadin who presents 
with dyspnea. Of note, the patient was discharged on ___ 
following treatment for community acquired pneumonia. The 
patient was found to have RML consolidation, initially treated 
with IV CTX and Azithromycin and transitioned to Levofloxacin x7 
day total course (last day ___.

Patient complained of increasing dyspnea. EMS called, patient 
was not initially hypoxic but hypertensive SBP 210s, patient 
given nitro spray x3 and started on BiPAP. Patient brought to 
___ ED. In the ED, initial vitals:  T 97.5 HR 89 BP 107/67 RR 
19 SpO2 100% cpap. Exam notable for respiratory distress and 
increased work of breathing. No evidence of JVD ___ edema. 
Initial labs notable for lactate 1.3 and VBG pH 7.29 pCO2 66 pO2 
36. The patient was given Albuterol/Ipratropium Nebs and 
Methylpred 125 mg IV x1.

On arrival to the MICU,  ___ y/o ___ man with 
multiple medical problems most notable for HTN, COPD, HFpEF, 
Afib on Coumadin who presents with dyspnea. Of note, the patient 
was discharged on ___ following treatment for community 
acquired pneumonia. The patient was found to have RML 
consolidation, initially treated with IV CTX and Azithromycin 
and transitioned to Levofloxacin x7 day total course (last day 
___.

 
Past Medical History:
- Hyperlipidemia
- Hypertension   
- COPD  
- CHF  
- Atrial fibrillation (CHADS=3)  
- Gout   
 
Social History:
___
Family History:
No cardiac disease, HTN, DM in family.
 
Physical Exam:
ON ADMISSION:
=============
Vitals-  T 97.9 BP138/67 HR78 RR20 SaO2 98RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
  
ON DISCHARGE:
=============
Vitals- T 97.7 Tmax98.1 BP 126-148/64-87 HR ___ RR ___ 98% 
RA
General- Alert, oriented, no acute distress, seated in chair at 
bedside  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Minimal wheezes diffusely, decreased breath sounds at 
bases
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- Moving all 4 limbs without focal neuro deficits
 
Pertinent Results:
ON ADMISSION:
=============
___ 09:24PM BLOOD WBC-9.5 RBC-5.11 Hgb-10.9* Hct-35.7* 
MCV-70* MCH-21.3* MCHC-30.5* RDW-17.9* RDWSD-42.6 Plt ___
___ 09:24PM BLOOD Neuts-55.6 ___ Monos-9.8 Eos-3.5 
Baso-0.7 Im ___ AbsNeut-5.25 AbsLymp-2.85 AbsMono-0.93* 
AbsEos-0.33 AbsBaso-0.07
___ 09:24PM BLOOD ___ PTT-37.6* ___
___ 09:24PM BLOOD Plt ___
___ 09:24PM BLOOD Glucose-138* UreaN-16 Creat-1.3* Na-137 
K-3.9 Cl-96 HCO3-28 AnGap-17
___ 09:24PM BLOOD ALT-14 AST-24 AlkPhos-112 TotBili-0.3
___ 09:24PM BLOOD proBNP-1603*
___ 09:24PM BLOOD cTropnT-<0.01
___ 02:53PM BLOOD CK-MB-3 cTropnT-0.03*
___ 09:24PM BLOOD Albumin-4.1
___ 09:28PM BLOOD ___ pO2-36* pCO2-66* pH-7.29* 
calTCO2-33* Base XS-2
___ 09:28PM BLOOD Lactate-1.3

STUDIES AND IMAGING
___ PORTABLE CXR
Resolved pneumonia.  Limited evaluation of the lung apices.  No 
convincing 
evidence for pneumonia or edema. 

ON DISCHARGE:
=============
___ 06:45AM BLOOD WBC-10.0 RBC-4.89 Hgb-10.4* Hct-33.5* 
MCV-69* MCH-21.3* MCHC-31.0* RDW-18.0* RDWSD-41.5 Plt ___
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-116* UreaN-23* Creat-1.0 Na-136 
K-3.8 Cl-95* HCO3-33* AnGap-12
___ 06:45AM BLOOD Calcium-9.1 Phos-3.1 Mg-1.7
___ 07:45AM BLOOD Lactate-2.___ old ___ man, ___'s Witness, with dCHF, HTN, 
COPD, AF on coumadin p/w dyspnea, without pain. 

MICU COURSE:
============
# Hypercarbic respiratory failure. Pt admitted after course of 
treatment for CAP with increased dyspnea.  In the the MICU, put 
on BiPAP, PEEP8 FiO2 50% on arrival, breathing comfortably. 
Received ipratropium/albuterol nebs x3, methylprednisolone in 
the ED. Given the findings of the chest X-ray showing 
hyperinflated lungs, there was an initial concern is for COPD 
exacerbation. Patient started on standing duonebs, prn 
albuterol, azithromycin: 500mg x 1, 250mg x 4 days and 
prednisone 40 mg daily for five day course.  However, on ___ 
lactate noted to be uptrending from 3.4 to 5.5 despite fluids 
and IV thiamine.  CXR at this time showed RLL consolidation, 
started Vanc/Cefepime for ___ vs aspiration PNA. Speech/swallow 
eval was ordered but no frank aspiration noted at bedside.  Of 
note, he was going to be called out to the medical floor on 
___ but lactate persistently elevated to 3's. Given no other 
signs of hypoperfusion, ICU team attributed his elevated lactate 
to frequent nebs.  

FLOOR COURSE:
=============
#Acute COPD exacerbation: Continued treatment for ___ and COPD 
exacerbation with 7 day course of Levofloxacin (first day ___, 
last day ___ and 5 days of prednisone (first day ___, last 
day ___. BNP was at his baseline at roughly 1600. Patient was 
on standing duonebs and albuterol PRN.

#Leukocytosis: Initially elevated then improved to 10 on ___. 
Likely secondary to prednisone.

#Acute Renal Failure: Creatinine initially 1.3 and held home 
bumetanide. Creatinine down to 1.0 on ___.

CHRONIC ISSUES  
#dCHF: Creatinine initially 1.3 and held home bumetanide. 
Restarted home bumetanide 3.5mg daily, clinically appears 
euvolemic on exam.

#HTN: Continued carvedilol, valsartan, diltiazem
  
#AF: Rate controlled, continued home diltiazem and carvedilol. 
Warfarin held for INR 3.4 on ___. 

#Gout: Continued allopurinol.

#Anemia:  Microcytic anemia with low iron in ___ gave 1 
dose ferric gluconate here. Can work up further as outpatient if 
within patients goals of care.

***TRANSITIONAL ISSUES:***
- Continue Levofloxacin 750mg PO QDay until last day ___
- Warfarin held for supratherapeutic INR (INR 3.4 on ___, INR 
needs to be monitored and Warfarin restarted accordingly
- Consider anemia work up as outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN pain 
2. albuterol sulfate 2.5 /3 mL (0.083 %) INHALATION BID:PRN 
shortness of breath 
3. Allopurinol ___ mg PO DAILY 
4. Benzonatate 100 mg PO TID 
5. Bumetanide 3.5 mg PO DAILY 
6. Carvedilol 6.25 mg PO BID 
7. Diltiazem Extended-Release 120 mg PO DAILY 
8. Docusate Sodium 200 mg PO BID 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 
10. Ipratropium Bromide Neb 1 NEB IH BID 
11. Senna 8.6 mg PO BID 
12. Valsartan 40 mg PO BID 
13. Warfarin 4 mg PO DAILY16 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q8H:PRN pain 
2. albuterol sulfate 2.5 /3 mL (0.083 %) INHALATION BID:PRN 
shortness of breath 
3. Allopurinol ___ mg PO DAILY 
4. Benzonatate 100 mg PO TID 
5. Bumetanide 3.5 mg PO DAILY 
6. Carvedilol 6.25 mg PO BID 
7. Diltiazem Extended-Release 120 mg PO DAILY 
8. Docusate Sodium 200 mg PO BID 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 
10. Senna 8.6 mg PO BID 
11. Valsartan 40 mg PO BID 
12. Ipratropium Bromide Neb 1 NEB IH BID 
13. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Hypercapnia Respiratory Failure
COPD exacerbation
___

Secondary:
___
HTN
Atrial fibrillation
Gout
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ on ___ because you were having 
trouble breathing. We found that you were having a severe 
exacerbation of your COPD as well as pneumonia. We treated you 
with antibiotics and steroids and your breathing improved. You 
were also found to have an acute injury of the kidneys, but we 
gave you fluids and your kidneys recovered.

It was a pleasure taking care of you!
-Your BI___ team
 
Followup Instructions:
___